* source I-NAND
V_VDD         N39971 0 3.3
M_M5         OUT IN1 N39971 N39971 CMOSP  
+ L=.18u  
+ W=.2u         
M_M6         OUT IN1 N39991 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M2         N39991 IN2 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
V_V1         IN1 0  
+SIN 1.5 1.5 1Meg 0 0 0
M_M4         OUT IN2 N39971 N39971 CMOSP  
+ L=.18u  
+ W=.2u         
V_V2         IN2 0  
+SIN 1.5 1.5 500k 0 0 0
