* source I-NAND
V_VDD         N39971 0 3.3
M_M5         OUT IN1 N39971 N39971 CMOSP  
+ L=.18u  
+ W=.2u         
M_M6         OUT IN1 N39991 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M2         N39991 IN1 0 0 CMOSN  
+ L=.18u  
+ W=.18u         
M_M4         OUT IN1 N39971 N39971 CMOSP  
+ L=.18u  
+ W=.2u         
V_VIN         IN1 0  
+PULSE 0 3.3 10p 0 0 100p 150p
